US04640920
(a) 4-(6-Chloro-4-quinazolinylamino)benzenesulphonic acid
4,6-Dichloroquinazoline (5.9 g, 0.03 mole) was added portionwise to sulphanilic acid (5.2 g, 0.03 mole) in 50% aqueous ethanol (200 ml) at 90° C. with stirring. The mixture was refluxed for 2 hours, cooled and filtered. The solid was washed with 50% aqueous ethanol and dried in an oven to give the title compound (9.2 g) as the hemihydrate m.p. greater than 300° C.

reactant | 4,6-Dichloroquinazoline | 0.03 mole, 5.9 g | ClC1=NC=NC2=CC=C(C=C12)Cl | C8H4Cl2N2
reactant | sulphanilic acid | 0.03 mole, 5.2 g | S(=O)(C1=CC=C(C=C1)N)(=O)O | C6H7NO3S
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-(6-Chloro-4-quinazolinylamino)benzenesulphonic acid | 9.2 g | ClC=1C=C2C(=NC=NC2=CC1)NC1=CC=C(C=C1)S(=O)(=O)O | C14H10ClN3O3S
